US04661477
A mixture of 11 g. (0.1 moles) of dimethyl phosphite, 20 ml. of water and 20 ml. of methanol is reacted with a mixture of 9.71 g. (0.1 moles) of furfuryl amine and 30 ml. of methanol as described in example 1. 17.3 g. of furfuryl-ammoniummethyl phosphonate are obtained.

reactant | dimethyl phosphite | 0.1 moles | P(OC)(OC)[O-]
reactant | water | O | H2O
reactant | furfuryl amine | 0.1 moles | C(C1=CC=CO1)N | C5H7NO
solvent | methanol | CO | CH4O
product | furfuryl-ammoniummethyl phosphonate | Yield: 98.5% | CP([O-])([O-])=O.C(C1=CC=CO1)[NH3+].C(C1=CC=CO1)[NH3+] | InChI=1S/2C5H7NO.CH5O3P/c2*6-4-5-2-1-3-7-5;1-5(2,3)4/h2*1-3H,4,6H2;1H3,(H2,2,3,4)
